US05635510
67.1 Synthesis of 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid (2-morpholino-ethyl)-amide
Prepare by the method of Example 20.9 using 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid (7 mmol) and 2-morpholino-ethylamine (7 mmol) to give the title compound: Rf =0.49 (silica gel, 6% methanol/dichloromethane).

reactant | 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid | 7 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C17H23NO4
reactant | 2-morpholino-ethylamine | 7 mmol | O1CCN(CC1)CCN | C6H14N2O
product | 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid (2-morpholino-ethyl)-amide | O1CCN(CC1)CCNC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C23H35N3O4
